US06068963
Subsequently, 1-(2-chloroethyl)indole (15.4 g), potassium methacrylate (21.3 g), potassium iodide (7.1 g), N,N-dimethylformamide (40 ml), and a small amount of hydroquinone were placed in a 200-ml flask equipped with a stirrer and a condenser tube. The mixture was heated to 100° C. and stirred for 2.5 hours. After completion of reaction, insoluble matter was removed by filtration, and the filtrate was concentrated under reduced pressure. This reaction mixture was purified further by silica gel column chromatography to obtain 1-(2-methacryloyloxyethyl) indole (15.5 g).

reactant | 1-(2-chloroethyl)indole | 15.4 g | ClCCN1C=CC2=CC=CC=C12 | C10H10ClN
reactant | potassium methacrylate | 21.3 g | C(C(=C)C)(=O)[O-].[K+]
reactant | potassium iodide | 7.1 g | [I-].[K+]
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(2-methacryloyloxyethyl) indole | 15.5 g | C(C(=C)C)(=O)OCCN1C=CC2=CC=CC=C12 | C14H15NO2
